US04032323
Ammonia gas was passed into a stirred solution of n-propyl acetoacetate (prepared by the method of Fisher, J.A.C.S., 1934, 56, 1766; 72 g.) in diethyl ether (100 ml.) at ambient temperature for 20 hours. The solution was then dried over sodium sulphate, filtered and distilled under reduced pressure to give n-propyl 3-iminobutyrate (18.2 g.), b.p. 114°-118° C./20 mm Hg.

reactant | Ammonia | N | H3N
reactant | n-propyl acetoacetate | C(CC(=O)C)(=O)OCCC | C7H12O3
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | n-propyl 3-iminobutyrate | 18.2 g | N=C(CC(=O)OCCC)C | C7H13NO2
